US06552069B1
Lithium chloride (0.75 g, 17.72 mmol) and water (0.16 ml, 8.86 mmol) were added to a solution of diethyl 2-(6-heptenyl)-2-(5,5,6,6,7,7,8,8,8-nonafluorooctyl)malonate (4.7 g, 8.86 mmol) in dimethyl sulfoxide (100 ml) followed by stirring for 12 hours at a temperature of 170° C. to 180° C. After the reaction was completed, water was added to the reaction mixture, which was then extracted twice with ethyl acetate (100 ml). The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/50) to give ethyl 2-(5,5,6,6,7,7,8,8,8-nonafluorooctyl)-8-nonenoate (2.01 g, Yield 49.5%).

reactant | Lithium chloride | 17.72 mmol, 0.75 g | [Cl-].[Li+]
reactant | water | 8.86 mmol, 0.16 ml | O | H2O
reactant | diethyl 2-(6-heptenyl)-2-(5,5,6,6,7,7,8,8,8-nonafluorooctyl)malonate | 8.86 mmol, 4.7 g | C(CCCCC=C)C(C(=O)OCC)(C(=O)OCC)CCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C22H31F9O4
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | ethyl 2-(5,5,6,6,7,7,8,8,8-nonafluorooctyl)-8-nonenoate | 2.01 g, Yield 49.5% | FC(CCCCC(C(=O)OCC)CCCCCC=C)(C(C(C(F)(F)F)(F)F)(F)F)F | C19H27F9O2
